US07671066B2
Preparation of phenylacetic acid (Z)-1-(3-cyclopentyloxy-4-methoxy-phenyl) -2-(3,5-dichloro-pyridin-4-yl)vinyl ester (CHF 5605)
The compound was obtained starting from phenyl-acetyl chloride and 1-(3-cyclopentyloxy-4-methoxy-phenyl)-2-(3,5-dichloro-pyridin-4-yl)-ethanone following the procedure of Example 7.

reactant | phenyl-acetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | 1-(3-cyclopentyloxy-4-methoxy-phenyl)-2-(3,5-dichloro-pyridin-4-yl)-ethanone | C1(CCCC1)OC=1C=C(C=CC1OC)C(CC1=C(C=NC=C1Cl)Cl)=O | C19H19Cl2NO3
product | phenylacetic acid (Z)-1-(3-cyclopentyloxy-4-methoxy-phenyl) -2-(3,5-dichloro-pyridin-4-yl)vinyl ester | C1(CCCC1)OC=1C=C(C=CC1OC)/C(=C/C1=C(C=NC=C1Cl)Cl)/OC(CC1=CC=CC=C1)=O | C27H25Cl2NO4
